US06034092
9-fluoro-6-hydroxybenzo[g]isoquinolin-5,10-dione
A mixture of 29 g of 9-fluoro-6-methoxybenzo[g]iso-quinolin-5,10-dione in 145 ml of methanesulfonic acid is heated at 110° C., with stirring and under inert gas atmosphere, for about 2 hours, then added to 3000 ml of water. After 1 hour under stirring, the formed precipitate is filtered, washed with about 300 ml of water, taken up into a further 2000 ml of water and, after stirring for 30 minutes, filtered again. The mother liquors are extracted with 500 ml of ethyl acetate. The organic phase is separated and the solvent is evaporated under reduced pressure. The residue (3 g) is combined with the first crystallization crop and the whole is taken up into 500 ml of isopropanol. After an hour under stirring, the crystallized product is filtered, to obtain 24.16 g of product, m.p. 189-192° C.

reactant | 9-fluoro-6-methoxybenzo[g]iso-quinolin-5,10-dione | 29 g | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OC | C14H8FNO3
reactant | water | 3000 ml | O | H2O
solvent | methanesulfonic acid | 145 ml | CS(=O)(=O)O | CH4O3S
product | 9-fluoro-6-hydroxybenzo[g]isoquinolin-5,10-dione | 24.16 g | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)O | C13H6FNO3
